US07253196B2
(1R,2S,4R,5S)-2,5-Bis(trichlorosilyl)-bicyclo[2.2.1]heptane
A solution of allylpalladium(II) chloride (0.0180 g, 0.0492 mmol) and (R)-(+)-2-(diphenylphosphino)-2′-methoxy-1,1′-binaphthyl (0.105 g, 0.223 mmol) in benzene (2.5 mL) was placed into a double-jacketed 250-mL three-neck flask equipped with a mechanical stirrer under nitrogen atmosphere. Trichlorosilane (20.0 mL, 198 mmol) was added, and the mixture was cooled to −3° C. Bicyclo[2.2.1]hepta-2,5-diene (8.3 mL, 76.9 mmol) was added slowly with mechanical stirring. After stirring at −3° C. for 69 h, the color of the mixture turned into a pale yellowish solid. The reaction mixture was dissolved in toluene (anhydrous, 60 mL), and then concentrated in vacuo to give a pale solid, which was used in the following reaction without further purification.

reactant | (R)-(+)-2-(diphenylphosphino)-2′-methoxy-1,1′-binaphthyl | 0.223 mmol, 0.105 g | COC1=C(C2=CC=CC=C2C=C1)C3=C(C=CC4=CC=CC=C43)P(C5=CC=CC=C5)C6=CC=CC=C6 | C33H25OP
reactant | Trichlorosilane | 198 mmol, 20.0 mL | Cl[SiH](Cl)Cl | Cl3HSi
reactant | Bicyclo[2.2.1]hepta-2,5-diene | 76.9 mmol, 8.3 mL | C12C=CC(C=C1)C2 | C7H8
solvent | benzene | 2.5 mL | C1=CC=CC=C1 | C6H6
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | allylpalladium(II) chloride | 0.0492 mmol, 0.0180 g | C(C=C)[Pd]Cl
product | (1R,2S,4R,5S)-2,5-Bis(trichlorosilyl)-bicyclo[2.2.1]heptane | Cl[Si]([C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)[Si](Cl)(Cl)Cl)(Cl)Cl | C7H10Cl6Si2
